US06759554B2
4-(N-Benzyl)aminothioanisole (FIG. 10, Entry 5)
Using the general procedure, 4-bromothioanisole (203 mg, 1.0 mmol) was coupled with benzylamine (164 μL, 1.5 mmol). Purification of the crude product by column chromatography on silica gel using hexane/ethyl acetate (15:1) as eluent afforded the desired product as a white solid (201 mg, 88% yield). Rf=0.4 (hexane/ethyl acetate=10:1).

reactant | 4-bromothioanisole | 1.0 mmol, 203 mg | BrC1=CC=C(C=C1)SC | C7H7BrS
reactant | benzylamine | 1.5 mmol, 164 μL | C(C1=CC=CC=C1)N | C7H9N
product | 4-(N-Benzyl)aminothioanisole | 201 mg, 88% yield | C(C1=CC=CC=C1)NC1=CC=C(C=C1)SC | C14H15NS
